US08003654B2
7) Synthesis of N-[2-chloro-5-(1-hydroxy-1-methyl-ethyl)-phenyl]-3,4-dimethoxy-benzenesulfonamide
To a solution of N-(5-acetyl-2-chloro-phenyl)-3,4-dimethoxy-benzenesulfonamide (1.4 g, 3.8 mmol) in THF (16 mL) at −78° C. was added dropwise a solution of methyl lithium in ether (1.6 M, 6.5 mL, 2.75 eq). The mixture was stirred at −78° C. for 30 min and then allowed to warm to RT. The mixture was partitioned between EA and NH4Cl solution, the aqueous phase was once more extracted with EA and the combined organic layers were dried over MgSO4 and concentrated. The residue was purified by chromatography on SiO2 (hex/EA 2:1, 1:1) to give the desired product (0.97 g, 67%) as a yellowish foam.

reactant | N-(5-acetyl-2-chloro-phenyl)-3,4-dimethoxy-benzenesulfonamide | 3.8 mmol, 1.4 g | C(C)(=O)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)Cl | C16H16ClNO5S
reactant | methyl lithium | C[Li]
reactant | ether | 1.6 M, 6.5 mL, 2.75 eq | CCOCC | C4H10O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | N-[2-chloro-5-(1-hydroxy-1-methyl-ethyl)-phenyl]-3,4-dimethoxy-benzenesulfonamide | 0.97 g, 67% | ClC1=C(C=C(C=C1)C(C)(C)O)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC | C17H20ClNO5S
